US07381719B2
Step 7: 2,2,2-Trifluoro-1-(7-hydroxy-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-ethanone
Dissolve 2,2,2-trifluoro-1-(7-methoxy-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)ethanone (10.0 g, 36.6 mmol) in dichloromethane (750 mL). Add BBr3 (11.0 mL, 116 mmol) and stir for 4 hours. Quench the reaction mixture with water (350 mL). Filter the suspension, then separate the two layers. Extract the aqueous layer with dichloromethane (2×300 mL). Dry the combined organic extracts over MgSO4, filter and concentrate to give the title compound (8.62 g, 91%): MS ES+ 260 (M+H)+, ES− 258 (M−H)−; HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), acetonitrile in water containing 0.01% concentrated HCl at 1.0 mL/min, 30-99% over 19 min], tR=8.8 min, 100% purity.

reactant | 2,2,2-trifluoro-1-(7-methoxy-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)ethanone | 36.6 mmol, 10.0 g | FC(C(=O)N1CCC2=C(CC1)C=C(C=C2)OC)(F)F | C13H14F3NO2
reactant | BBr3 | 116 mmol, 11.0 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 750 mL | ClCCl | CH2Cl2
product | 2,2,2-Trifluoro-1-(7-hydroxy-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl)-ethanone | 8.62 g, 91% | FC(C(=O)N1CCC2=C(CC1)C=C(C=C2)O)(F)F | C12H12F3NO2
